US08957080B2
Into a 250 mL 4-necked round-bottom flask, was placed 4-(2,5-difluorophenoxy)-aniline (9 g, 40.69 mmol, 1.00 equiv), hydrogen chloride (37%) (10.2 g, 100 mmol, 2.5 equiv) and water (20 mL). A solution of NaNO2 (3.1 g, 44.93 mmol, 1.10 equiv) in water (10 mL) was added dropwise with stirring at 0° C. over 5 min. After stirring at 0° C. for 30 min, the mixture was added into a solution of NaI (18 g, 120.00 mmol, 3.0 equiv) in water (20 mL) dropwise with stirring at 25° C. The resulting solution was stirred for 12 h at 25° C. and then extracted with ethyl acetate and the organic layers combined. The combined organics were washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 10.5 g (78%) of 1,4-difluoro-2-(4-iodophenoxy)benzene as brown oil.

reactant | 4-(2,5-difluorophenoxy)-aniline | 40.69 mmol, 9 g, 1.00 equiv | FC1=C(OC2=CC=C(N)C=C2)C=C(C=C1)F | C12H9F2NO
reactant | hydrogen chloride | 100 mmol, 10.2 g, 2.5 equiv | Cl | ClH
reactant | NaNO2 | 44.93 mmol, 3.1 g, 1.10 equiv | N(=O)[O-].[Na+]
reactant | NaI | 120.00 mmol, 18 g, 3.0 equiv | [Na+].[I-]
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1,4-difluoro-2-(4-iodophenoxy)benzene | 10.5 g, 78% | FC1=C(C=C(C=C1)F)OC1=CC=C(C=C1)I | C12H7F2IO
